US08471005B2
Analogous to Example 1528d, 2-(3-Amino-phenyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (204 mg, 0.540 mmol) and Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (162 mg, 0.432 mmol) were reacted to afford [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-piperazin-2-yl-phenyl)-amine (75 mg, 33%) as the TFA salt. LCMS: 402 (M+H); 1H-NMR (DMSO-d6): 9.74 (s, 1H), 9.5 (br s, 3H), 9.03 (s, 1H), 9.00 (s, 1H), 8.50 (m, 1H), 7.93 (d, 1H, J=8.1 Hz), 7.65 (s, 1H), 7.48 (m, 1H), 7.26 (d, 1H, J=4.8 Hz), 7.19 (d, 1H, J=7.9 Hz), 7.03 (m, 2H), 1.41 (m, 1H), 3.94 (s, 3H), 3.71 (m, 1H), 3.60 (m, 2H), 3.2-3.4 (m, 3H).

reactant | 2-(3-Amino-phenyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.540 mmol, 204 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)N | C20H31N3O4
reactant | Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.432 mmol, 162 mg | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(3-piperazin-2-yl-phenyl)-amine | 75 mg, 33% | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)C2NCCNC2 | C22H23N7O
